US04786646
A solution of bis(4-fluorophenyl)diazomethane, prepared as in Example 84 from the action of activated manganese dioxide (59.7 g) on 4,4'-difluorobenzophenone hydrazone (42.81 g) in dichloromethane (195 mL), was added to a solution of acrolein (15.7 mL) in heptane (150 mL). The deep purple reaction mixture, after being stirred at 40° C. for 2 hours then at 53° C. for 30 minutes, faded to a pale amber color. Evaporation of the solvents afforded 46 g of 2,2-bis(4-fluorophenyl)cyclopropanecarboxaldehyde as an oil. The material was used without further purification in subsequent reactions.

reactant | bis(4-fluorophenyl)diazomethane | FC1=CC=C(C=C1)C(=[N+]=[N-])C1=CC=C(C=C1)F | C13H8F2N2
reactant | acrolein | 15.7 mL | C(=O)C=C | C3H4O
solvent | dichloromethane | 195 mL | ClCCl | CH2Cl2
solvent | heptane | 150 mL | CCCCCCC | C7H16
catalyst | manganese dioxide | 59.7 g | [O-2].[O-2].[Mn+4]
product | 2,2-bis(4-fluorophenyl)cyclopropanecarboxaldehyde | 46 g | FC1=CC=C(C=C1)C1(C(C1)C=O)C1=CC=C(C=C1)F | C16H12F2O
